US07253318B2
In analogy to the procedure described in Example 1b), the alkylation of 4-benzyloxy-phenol [Example 2a)] with methyl (RS)-2-bromopropionate in acetone using cesium carbonate as the base yielded the (RS)-2-(4-Benzyloxy-phenoxy)-propionic acid methyl ester as light yellow oil; MS: m/e=304 (M+NH4)+.

reactant | 4-benzyloxy-phenol | C(C1=CC=CC=C1)OC1=CC=C(C=C1)O | C13H12O2
reactant | methyl (RS)-2-bromopropionate | BrC(C(=O)OC)C | C4H7BrO2
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetone | CC(=O)C | C3H6O
product | (RS)-2-(4-Benzyloxy-phenoxy)-propionic acid methyl ester | COC(C(C)OC1=CC=C(C=C1)OCC1=CC=CC=C1)=O | C17H18O4
